US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-VII, 40 mg, 0.093 mmol), 3-aminopropan-1-ol (10.47 mg, 0.139 mmol), HATU (45.9 mg, 0.121 mmol), and 4-methylmorpholine (37.6 mg, 0.372 mmol) were dissolved in DMF (1 mL). It was stirred for 20 min and then was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention=11.1 min) to provide (R/S)-2-hydroxy-N-(3-hydroxypropyl)-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (20 mg, 0.032 mmol, 34.4% yield): LCMS=488.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.42-8.50 (1 H, m), 8.12 (2 H, dd, J=8.57, 3.30 Hz), 7.51-7.73 (7 H, m), 5.11 (1 H, s), 3.58 (2 H, t, J=6.15 Hz), 3.35 (2 H, t, J=6.81 Hz), 1.74 (2 H, quin, J=6.59 Hz); HPLC peak RT=6.8 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.093 mmol, 40 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1 | C20H13F3N4O4
reactant | 3-aminopropan-1-ol | 0.139 mmol, 10.47 mg | NCCCO | C3H9NO
reactant | HATU | 0.121 mmol, 45.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.372 mmol, 37.6 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-(3-hydroxypropyl)-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.032 mmol, 20 mg, 34.4% yield | OC(C(=O)NCCCO)C1=CC=C(C=C1)C1=NOC(=N1)C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1 | C23H20F3N5O4
